US05631257
1-Cyanomethyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide
A 150 mg portion of 2-(4-methyl-1-piperazinyl)-benzoxazole was dissolved in 3 ml of DMF. Under cooling with ice, 0.052 ml of bromoacetonitrile was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 24 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and 5 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 228 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | bromoacetonitrile | 0.052 ml | BrCC#N | C2H2BrN
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-Cyanomethyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide | 228 mg | [Br-].C(#N)C[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C14H17N4O.BrH/c1-18(9-6-15)10-7-17(8-11-18)14-16-12-4-2-3-5-13(12)19-14;/h2-5H,7-11H2,1H3;1H/q+1;/p-1
